US04795487
A solution of 3-hydroxy-2-propionyl-5-(3-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (0.77 g, 2.37 mmol) and thioacetamide (0.36 g, 4.74 mmol) in dmf (10 ml) was saturated with anhydrous hydrogen chloride. The solutuion was then heated under a distillation head at 110° for 45 m. Most of the dmf was then distilled off under reduced pressure. The dark red residue was cooled, saturated sodium bicarbonate solution was added, and the aqueous layer extracted with ethylacetate. The organic layer was washed extensively with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield an orange solid. The crude material was purified by chromatography on silica gel (elution with an increasing gradient of ethylacetate in methylene chloride) to give 3-hydroxy-2-propionyl-5-(3-thiocarbamoylmethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as a colourless solid (0.40, 47%). Proton magnetic resonance spectrum (CDCl3 ; δ in ppm); 1.15 (3H, t); 2.22 (3H,s); 2.28 (3H,s); 2.36 (3H,s); 2.4-4.2 (9H,m); 6.70 (1H,brs); 6.90 (1H,s); 8.25 (1H,brs); 18.20 (1H,s).

reactant | 3-hydroxy-2-propionyl-5-(3-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 2.37 mmol, 0.77 g | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)CC#N)C)=O)C(CC)=O | C20H23NO3
reactant | thioacetamide | 4.74 mmol, 0.36 g | C(C)(=S)N | C2H5NS
reactant | hydrogen chloride | Cl | ClH
product | 3-hydroxy-2-propionyl-5-(3-thiocarbamoylmethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)CC(N)=S)C)=O)C(CC)=O | C20H25NO3S
